US09145441B2
Compound 89a. 2-[1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-2-methyl-but-3-enoic acid
A cooled (0° C.) solution of recovered (S)-3-{2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2-methyl-but-3-enoyl}-4-isopropyl-oxazolidin-2-one (431.5 mg, 1.167 mmol) in tetrahydrofuran/water (15 mL, 2:1) was subsequently treated with hydrogen peroxide (30% aqueous, 600 μL, 5.835 mmol) and lithium hydroxide monohydrate (98 mg, 2.335 mmol). After stirring for 2 days at room temperature, hydrogen peroxide (30% aqueous, 600 μL, 5.835 mmol) and lithium hydroxide monohydrate (175 mg, 4.171 mmol) were added at 0° C. After stirring at room temperature for 17 days, the reaction was quenched with solid sodium metabisulfite (4.4 g). After stirring for 1 h at room temperature, the pH was adjusted with hydrochloric acid (1 M) to pH 2 at 0° C. The aqueous layer was extracted with ethyl acetate (2×). The organics were combined, dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 50 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/diethyl ether 1:0 to 7:3 to afford the title compound (115.8 mg, 38%) as a white solid and as a single diastereoisomer. 1H NMR (300 MHz, CDCl3) δ 0.14 (s, 3H), 0.16 (s, 3H), 0.92 (s, 9H), 1.20-1.26 (m, 6H), 3.97 (q, J=6.5 Hz, 1H), 5.16-5.26 (m, 2H), 5.88 (dd, J=17.4, 10.7 Hz, 1H), 10.33 (br s, 1H).

reactant | (S)-3-{2-[1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2-methyl-but-3-enoyl}-4-isopropyl-oxazolidin-2-one | 1.167 mmol, 431.5 mg | C(C)(C)(C)[Si](OC(C)C(C(=O)N1C(OC[C@@H]1C(C)C)=O)(C=C)C)(C)C | C19H35NO4Si
reactant | hydrogen peroxide | 5.835 mmol, 600 μL | OO | H2O2
reactant | lithium hydroxide monohydrate | 2.335 mmol, 98 mg | O.[OH-].[Li+]
reactant | hydrogen peroxide | 5.835 mmol, 600 μL | OO | H2O2
reactant | lithium hydroxide monohydrate | 4.171 mmol, 175 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran water | 15 mL | O1CCCC1.O
product | 2-[1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-2-methyl-but-3-enoic acid | 115.8 mg, 38% | C(C)(C)(C)[Si](OC(C)C(C(=O)O)(C=C)C)(C)C | C13H26O3Si
